US04507498
A mixture of 5.0 g of 1-[4-(3-bromopropoxy)-2-hydroxy-3-propylphenyl]ethanone, 3.0 ml of methyl bromoacetate, and 3.3 g of anhydrous potassium carbonate in 75 ml of anhydrous acetone was stirred at reflux for 4 hours. An additional 2.0 g of potassium carbonate was added and reflux was continued for 13 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil which was purified by high pressure liquid chromatography using 5% ethyl acetate-toluene to give 3.5 g (58%) of [6-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]acetic acid methyl ester as an oil.

reactant | 1-[4-(3-bromopropoxy)-2-hydroxy-3-propylphenyl]ethanone | 5.0 g | BrCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C14H19BrO3
reactant | methyl bromoacetate | 3.0 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | [6-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]acetic acid methyl ester | 3.5 g, 58% | COC(COC1=C(C(=CC=C1C(C)=O)OCCCBr)CCC)=O | C17H23BrO5
